US05468748
9-(2-Methoxyethoxy)-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione
A suspension of 9-hydroxy-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione. 1H2O (0.50 g, 2.13 mmol) in benzene (20 ml), 2-methoxyethanol (10 ml) and p-toluensulfonic acid (20 mg) was refluxed with water separation for 20 hours. The reaction mixture was evaporated in vacuo to dryness, the residue was suspended in ethanol (10 ml) and the precipitate was filtered off and washed with ethanol and dried to give 0.48 g of the crude product, which was recrystallized from ethanol to yield 0.35 g (60%) of the title compound. M.p. >300° C. 1H-NMR (DMSO-d6, δ): 3.22 (s, 3H), 3.27-3.51 (m, 4H), 5.24 (s, 1H), 7.18 (t, 1H), 7.33 (t, 1H), 7.42 (d, 1H), 7.5 (d, 1H), 2.06 (s, 1H), 12.29 (s, 1H).

reactant | 9-hydroxy-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione | OC1C=2C=CC=CC2C=2NC(C(NC21)=O)=O | C11H8N2O3
reactant | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
reactant | p-toluensulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 9-(2-Methoxyethoxy)-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione | 0.35 g, 60% | COCCOC1C=2C=CC=CC2C=2NC(C(NC21)=O)=O | C14H14N2O4
